US03996280
Thionyl cloride (11.9 g., 100 mmole), 2,6-di(2,2,2-trifluoroethoxy)benzoic acid (2.0 g., 6.3 mmole) and two drops of dimethyl formamide are heated to reflux temperature and maintained at reflux for 4 hours. Unreacted thionyl chloride is removed by distillation on a steam bath at water aspirator pressure. The residue is dissolved in dry tetrahydrofuran and added dropwise to a solution of 95 per cent hydrazine (3.2 g., 100 mmole) in ethanol (15 ml.). The mixture is allowed to sit overnight and evaporate to dryness. The residue is diluted with water and a white solid collected and purified by sublimation (138°-140°/0.2 to 0.5 mm. Hg.) followed by recrystallization from benzene to give 2,6-di-(2,2,2-trifluoroethoxy)benzoic acid hydrazide, m.p. 153°-154° C.

reactant | Thionyl cloride | 100 mmole, 11.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2,6-di(2,2,2-trifluoroethoxy)benzoic acid | 6.3 mmole, 2.0 g | FC(COC1=C(C(=O)O)C(=CC=C1)OCC(F)(F)F)(F)F | C11H8F6O4
reactant | hydrazine | 100 mmole, 3.2 g | NN | H4N2
catalyst | dimethyl formamide | two drops | CN(C=O)C | C3H7NO
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2,6-di-(2,2,2-trifluoroethoxy)benzoic acid hydrazide | FC(COC1=C(C(=O)NN)C(=CC=C1)OCC(F)(F)F)(F)F | C11H10F6N2O3
